### PR TITLE
[Merged by Bors] - feat: port GroupTheory.Perm.Fin

### PR DESCRIPTION
**Pull request by ChrisHughes24**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Perm/Fin.lean [hunk 1]
```diff
@@ -0,0 +1,321 @@
...
+#align equiv.perm.decompose_fin_symm_apply_one Equiv.Perm.decomposeFin_symm_apply_one
+
+@[simp]
+theorem Equiv.Perm.decomposeFin.symm_sign {n : ℕ} (p : Fin (n + 1)) (e : Perm (Fin n)) :
+    Perm.sign (Equiv.Perm.decomposeFin.symm (p, e)) = ite (p = 0) 1 (-1) * Perm.sign e := by
+  refine' Fin.cases _ _ p <;> simp [Equiv.Perm.decomposeFin, Fin.succ_ne_zero]
+#align equiv.perm.decompose_fin.symm_sign Equiv.Perm.decomposeFin.symm_sign
+
+/-- The set of all permutations of `fin (n + 1)` can be constructed by augmenting the set of
+permutations of `fin n` by each element of `fin (n + 1)` in turn. -/
```
Comment (Parcly-Taxel) [inline Mathlib/GroupTheory/Perm/Fin.lean:73]:
```suggestion
/-- The set of all permutations of `Fin (n + 1)` can be constructed by augmenting the set of
permutations of `Fin n` by each element of `Fin (n + 1)` in turn. -/
```

File: Mathlib/GroupTheory/Perm/Fin.lean [hunk 2]
```diff
@@ -0,0 +1,321 @@
...
+#align fin.cycle_range_of_gt Fin.cycleRange_of_gt
+
+theorem cycleRange_of_le {n : ℕ} {i j : Fin n.succ} (h : j ≤ i) :
+    cycleRange i j = if j = i then 0 else j + 1 := by
+  cases n
+  · exact Subsingleton.elim (α := Fin 1) _ _  --Porting note; was `simp`
+  have :
+    j =
+      (Fin.castLe (Nat.succ_le_of_lt i.is_lt)).toEmbedding
+        ⟨j, lt_of_le_of_lt h (Nat.lt_succ_self i)⟩ :=
```
Comment (Parcly-Taxel) [inline Mathlib/GroupTheory/Perm/Fin.lean:180]:
```suggestion
  have : j = (Fin.castLe (Nat.succ_le_of_lt i.is_lt)).toEmbedding
    ⟨j, lt_of_le_of_lt h (Nat.lt_succ_self i)⟩ :=
```

**Review by Parcly-Taxel — APPROVED** [review]

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors r+
